US04402958
8-Phenyl-1,2,4-triazolo[4,3-a]pyrazine
To 10 ml. of stirred diethoxymethyl acetate at room temperature is added, in portions, 2.0 g. of 2-hydrazino-3-phenylpyrazine. The reaction mixture is stirred at room temperature and after one hour the precipitated product is collected, washed with ethanol and air dried. The crude product is recrystallized from acetonitrile to yield 1.1 g. of the product of the example as tan needles, m.p. 238°-239° C.

reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
reactant | 2-hydrazino-3-phenylpyrazine | N(N)C1=NC=CN=C1C1=CC=CC=C1 | C10H10N4
product | 8-Phenyl-1,2,4-triazolo[4,3-a]pyrazine | C1(=CC=CC=C1)C=1C=2N(C=CN1)C=NN2 | C11H8N4
